US05637583
1-Naphthylacetic acid (10 g, 53.7 mmol) is dissolved in dry THF (150 mL) under nitrogen. The solution is cooled to -10° C., treated with 1.6M butyl lithium in hexanes (72 mL, 115 mmol), and stirred for 15 minutes. A solution of iodomethane (3.7 mL, 59.4 mmol) in dry THF (50 mL) is added, and the mixture is allowed to warm to room temperature and stir for several hours. The solvent is removed in vacuo, and the residue dissolved in 5% sodium hydroxide solution (500 mL), washed with ether (3×200 mL), and then acidified by the addition of 6N hydrochloric acid. The aqueous is then extracted with dichloromethane (3×200 mL), the organic extracts are dried over sodium sulfate, and the solvent removed to leave 2-(1-naphthyl)propionic acid as a white solid.

reactant | 1-Naphthylacetic acid | 53.7 mmol, 10 g | C1(=CC=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | butyl lithium | 1.6M | C(CCC)[Li]
reactant | iodomethane | 59.4 mmol, 3.7 mL | IC | CH3I
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(1-naphthyl)propionic acid | C1(=CC=CC2=CC=CC=C12)C(C(=O)O)C | C13H12O2
